US09079866B2
5-[5-(2-Methoxyphenyl)pyridin-2-yl]pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 427 using 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine and 1-bromo-2-methoxybenzene. MS (ESI): mass calcd. for C16H14N4O. C2HF3O2, 278.12; m/z found, 279.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 9.00 (s, 2H), 8.81 (d, J=2.2, 1H), 8.28 (dd, J=8.4, 2.2, 1H), 8.02 (d, J=8.4, 1H), 7.48-7.41 (m, 2H), 7.16 (d, J=8.4, 1H), 7.11 (m, 1H), 3.87 (s, 3H).

reactant | 5-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl)pyrimidin-2-amine | CC1(OB(OC1(C)C)C=1C=CC(=NC1)C=1C=NC(=NC1)N)C | C15H19BN4O2
reactant | 1-bromo-2-methoxybenzene | BrC1=C(C=CC=C1)OC | C7H7BrO
product | 5-[5-(2-Methoxyphenyl)pyridin-2-yl]pyrimidin-2-amine | COC1=C(C=CC=C1)C=1C=CC(=NC1)C=1C=NC(=NC1)N | C16H14N4O
